US08168784B2
reacting sodium trifluoromethanesulfinate, bis-(2-fluorophenyl)iodonium tetrafluoroborate and copper(I) oxide to provide 1-fluoro-2-((trifluoromethyl)sulfonyl)benzene and isolating or not isolating the 1-fluoro-2-((trifluoromethyl)sulfonyl)benzene;

reactant | sodium trifluoromethanesulfinate | FC(S(=O)[O-])(F)F.[Na+]
reactant | bis-(2-fluorophenyl)iodonium tetrafluoroborate | F[B-](F)(F)F.FC1=C(C=CC=C1)[I+]C1=C(C=CC=C1)F
catalyst | copper(I) oxide | [Cu-]=O
product | 1-fluoro-2-((trifluoromethyl)sulfonyl)benzene | FC1=C(C=CC=C1)S(=O)(=O)C(F)(F)F | C7H4F4O2S
